US07553969B1
(6) Synthesis of Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe
To a solution of Boc-Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe (972 mg, 1.508 mmol) in methylene chloride (10 ml), TFA (7 ml) was added and stirred for 30 min. The mixture was concentrated under reduced pressure and the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methylene chloride:methanol=20:1), giving the titled compound (288 mg, 34%).

reactant | Boc-Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe | 1.508 mmol, 972 mg | N([C@@H](CC1=CC=C(C=C1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NOC)C)C)C(=O)OC(C)(C)C | C35H51FN4O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NHOMe | 288 mg, 34% | N[C@@H](CC1=CC=C(C=C1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NOC)C)C | C30H43FN4O5
